US08754114B2
Step 1: N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea
A mixture of N-[3-(7-chloroimidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (0.30 g, 0.81 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (0.29 g, 0.97 mmol), tetrakis(triphenylphosphine)palladium(0) (46.9 mg, 0.0406 mmol) and K3PO4 (0.43 g, 2.0 mmol) in 1,4-dioxane (4.0 mL) and water (2 mL) was heated at 100° C. under an atmosphere of nitrogen for 3 h. After cooling, the reaction mixture was extracted with ethyl acetate (3×30 mL), and washed with brine. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in dichloromethane (0-15%) to afford the desired product. LCMS (M+H)+: m/z=402.1.

reactant | N-[3-(7-chloroimidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.81 mmol, 0.30 g | ClC1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C15H11ClF3N5O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 0.97 mmol, 0.29 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | K3PO4 | 2.0 mmol, 0.43 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0406 mmol, 46.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H14F3N7O
